US05104888
6-Acetoxy- 2-(3,7-dimethyloctyl)-5,7,8-trimethyl-2-(4-nitrophenoxymethyl)chroman-4-one (Step A3, Acylation)
Following the same procedure as described in Preparation 16, 1.8 g of 2-(3,7-dimethyloctyl)-6-hydroxy-5,7,8-trimethyl-2-(4-nitrophenoxymethyl)chroman-4-one (prepared as described in Preparation 30), 0.5 g of acetic anhydride, 5 ml of pyridine and 10 ml of benzene were reacted, to give the title compound.

reactant | 2-(3,7-dimethyloctyl)-6-hydroxy-5,7,8-trimethyl-2-(4-nitrophenoxymethyl)chroman-4-one | 1.8 g | CC(CCC1(OC2=C(C(=C(C(=C2C(C1)=O)C)O)C)C)COC1=CC=C(C=C1)[N+](=O)[O-])CCCC(C)C | C29H39NO6
reactant | acetic anhydride | 0.5 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 6-Acetoxy- 2-(3,7-dimethyloctyl)-5,7,8-trimethyl-2-(4-nitrophenoxymethyl)chroman-4-one | C(C)(=O)OC=1C(=C2C(CC(OC2=C(C1C)C)(COC1=CC=C(C=C1)[N+](=O)[O-])CCC(CCCC(C)C)C)=O)C | C31H41NO7
